* Z:\mnt\design.r\spice\examples\1553.asc
L1 N008 OUT 2µ
V1 IN 0 5
M§Q1 N008 N009 0 0 Si4410DY
C1 N010 0 150p
C2 N011 0 .01µ
R1 N010 N011 8.2K
R2 IN N003 2.7K
M§Q2 IN N005 N008 N008 Si4410DY
R3 N008 N007 20
C3 OUT 0 330µ x7
C4 N012 0 .01µ
R4 IN N002 5.6K
R5 IN N004 5.6K
R6 IN N006 5.6K
V2 N001 0 12
C9 OUT 0 .1µ
XU1 N009 N001 0 0 IN OUT N003 N007 N012 N010 N006 N004 N002 0 0 0 0 0 IN N005 LTC1553
Rload OUT 0 .1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2.5m startup
.lib LTC1553.sub
.backanno
.end
